US07858640B2
[3-(4-chlorobenzyl)-2,4,7-trimethylquinolin-5-yloxy]acetic Acid
A solution of [3-(4-chlorobenzyl)-2,4,7-trimethylquinolin-5-yloxy]acetic acid methyl ester (0.045 g), acetonitrile (2.0 mL), tetrahydrofuran (1.0 mL) and 4.0 M aqueous lithium hydroxide solution (2.0 mL) was stirred at room temperature for 2 hours. The organic solvents were removed under reduced pressure and the pH of the residue adjusted to 5-6 by the addition of saturated aqueous sodium dihydrogenphosphate solution. The resulting mixture was extracted with chloroform and the combined extracts dried over magnesium sulfate. The solvent was removed under reduced pressure and trituration of the residue with diethyl ether and then methanol gave title compound, 0.025 g.

reactant | [3-(4-chlorobenzyl)-2,4,7-trimethylquinolin-5-yloxy]acetic acid methyl ester | 0.045 g | COC(COC1=C2C(=C(C(=NC2=CC(=C1)C)C)CC1=CC=C(C=C1)Cl)C)=O | C22H22ClNO3
reactant | acetonitrile | 2.0 mL | C(C)#N | C2H3N
reactant | lithium hydroxide | 4.0 M, 2.0 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | [3-(4-chlorobenzyl)-2,4,7-trimethylquinolin-5-yloxy]acetic Acid | ClC1=CC=C(CC=2C(=NC3=CC(=CC(=C3C2C)OCC(=O)O)C)C)C=C1 | C21H20ClNO3
